US07291635B2
The title B compound, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (98 mg, 0.34 mmol) and (4-hydroxymethylphenyl)carbamic acid t-butyl ester (153 mg, 0.68 mmol) and triphenylphosphine (180 mg, 0.68 mmol) are dissolved in THF (10 mL) with stirring under argon atmosphere. The reaction is cooled in an ice/water bath and diethyl azodicarboxylate (0.107 mL, 0.68 mmol) dissolved in THF (0.107 mL) is added dropwise. After 16 h, the solvent is evaporated and the residue is taken up in a minimal amount of CH2Cl2 and chromatographed on silica gel with a gradient from 1 to 5% EtOAc in CH2Cl2 over 15 min to give {4-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-carbamic acid t-butyl ester as an oil: [M+NH4]+=509.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.34 mmol, 98 mg | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | (4-hydroxymethylphenyl)carbamic acid t-butyl ester | 0.68 mmol, 153 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)CO)=O | C12H17NO3
reactant | triphenylphosphine | 0.68 mmol, 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.68 mmol, 0.107 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.107 mL | C1CCOC1 | C4H8O
product | {4-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C23H29N3O7S
